US05614535
5.4 g of 3-(4-aminomethylphenyl)-2-oxo-5-oxazolidinecarboxylic acid are suspended in 70 ml of THF. 35 ml of 1N NaOH are added dropwise with stirring. Subsequently, a solution of 6.6 g of 4-cyanobenzoyl chloride in 60 ml of THF is added dropwise. The pH of the solution is maintained at between 9 and 10.5 by addition of 1N NaOH. After reaction has taken place, the mixture is acidified at a pH of 1 with 2N HCl. The solvent is removed and the residue is filtered off with suction and washed with water. 3-[4-(4-cyanobenzamidomethyl)phenyl]-2-oxo-5-oxazolidinecarboxylic acid is obtained, m.p. 234°.

reactant | 3-(4-aminomethylphenyl)-2-oxo-5-oxazolidinecarboxylic acid | 5.4 g | NCC1=CC=C(C=C1)N1C(OC(C1)C(=O)O)=O | C11H12N2O4
reactant | NaOH | 1N, 35 ml | [OH-].[Na+]
reactant | 4-cyanobenzoyl chloride | 6.6 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
reactant | NaOH | 1N | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 3-[4-(4-cyanobenzamidomethyl)phenyl]-2-oxo-5-oxazolidinecarboxylic acid | C(#N)C1=CC=C(C(=O)NCC2=CC=C(C=C2)N2C(OC(C2)C(=O)O)=O)C=C1 | C19H15N3O5
